US07915411B2
2-Benzyl-5-methyl-phenylamine
A solution of lithium aluminum hydride in tetrahydrofuran (1.0 M, 2.54 mL, 2.54 mmol) was added via syringe to a flask containing aluminum chloride (534 mg, 4.005 mmol) under a nitrogen atmosphere and cooled in a 0° bath. After letting the mixture cool for 5 minutes, a solution of 2-amino-4-methylbenzophenone (200 mg, 0.9467 mmol) in tetrahydrofuran (4 mL) was added slowly dropwise at 0°. The reaction was then heated at 50° for 30 minutes. The reaction was cooled to room temperature and moist ethyl ether (5 mL) was added. The reaction was carefully poured into water (20 mL) and extracted with ethyl ether (2×50 mL). The combined ethereal extracts were washed with brine (20 mL), dried over anhydrous sodium sulfate, filtered, and concentrated by rotary evaporation under vacuum. Purification by silica gel flash chromatography using 40:60 hexanes/methylene chloride as eluent provided the title compound as an oil (94 mg, 50%).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 4.005 mmol, 534 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-amino-4-methylbenzophenone | 0.9467 mmol, 200 mg | NC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)C | C14H13NO
reactant | ethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.54 mmol, 1.0 M, 2.54 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-Benzyl-5-methyl-phenylamine | 94 mg, 50% | C(C1=CC=CC=C1)C1=C(C=C(C=C1)C)N | C14H15N
